US09120805B2
Under nitrogen, a solution of 5.87 g (27.7 mmol) 1-tert-butyl-1H-pyrazole-4-carboxylic acid methoxy-methyl-amide in 55 ml THF is cooled to 0° C. and 18.5 ml (55.5 mmol) of a 3 M solution of methylmagnesium bromide in diethyl ether is added dropwise at 0° C. The reaction mixture is stirred for 18 hours at room temperature. The reaction mixture is partitioned between brine and ethyl acetate. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to afford 1-(1-tert-butyl-1H-pyrazol-4-yl)-ethanone as white solid; HPLC/MS 1.87 min (B), [M+H] 167;

reactant | 1-tert-butyl-1H-pyrazole-4-carboxylic acid methoxy-methyl-amide | 27.7 mmol, 5.87 g | CON(C(=O)C=1C=NN(C1)C(C)(C)C)C | C10H17N3O2
reactant | methylmagnesium bromide | C[Mg]Br
solvent | THF | 55 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(1-tert-butyl-1H-pyrazol-4-yl)-ethanone | C(C)(C)(C)N1N=CC(=C1)C(C)=O | C9H14N2O
